US04578381
2 Grams of 5-carboxycarbostyril was suspended in 30 ml of water, then 10N-sodium hydroxide aqueous solution was added to dissolve the crystals. To this solution was added 500 mg of 10% platinum-carbon and this mixture was catalytically reduced with hydrogen gas under condition of 3-4 kg/cm2 at 70° C. After the completion of the reaction, the catalyst was removed from the reaction mixture by filtration, then the pH of the filtrate was adjusted to about pH=1 by adding concentrated hydrochloric acid. The precipitated crystals were collected by filtration, recrystallized from methanol to obtain 820 mg of 5-carboxy-3,4-dihydrocarbostyril in the form of colorless needle-like crystals.

reactant | 5-carboxycarbostyril | C(=O)(O)C1=C2C=CC(NC2=CC=C1)=O | C10H7NO3
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrogen | [H][H] | H2
solvent | water | 30 ml | O | H2O
catalyst | platinum carbon | 500 mg | [Pt].[C]
product | 5-carboxy-3,4-dihydrocarbostyril | 820 mg | C(=O)(O)C1=C2CCC(NC2=CC=C1)=O | C10H9NO3
